### PR TITLE
access+infoflow: relax conditions

### PR DESCRIPTION
**Pull request by ryybrr**
* Remove various instances of `pspace_aligned`, `valid_vspace_objs`, and `valid_asid_table`/`valid_arch_state` from preconditions
* Relax the `is_subject` predicate in various Syscall_AC lemmas
* Enforce explicit `wp` rules in locale interpretations

### CODE REVIEW

File: proof/access-control/ARM/ArchInterrupt_AC.thy [hunk 1]
```diff
@@ -75,7 +74,7 @@ global_interpretation Interrupt_AC_1?: Interrupt_AC_1 "arch_authorised_irq_ctl_i
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact Interrupt_AC_assms)?)
+    by (unfold_locales; fact Interrupt_AC_assms)
```
Comment (lsf37) [inline proof/access-control/ARM/ArchInterrupt_AC.thy:77]: We should leave these in -- there are useful for debugging when the statement fails, because it will print a goal with the ones that could not be solved, whereas the non-? variant fails and only prints the original goal

File: proof/access-control/ARM/ArchSyscall_AC.thy [hunk 2]
```diff
@@ -179,7 +179,7 @@ global_interpretation Syscall_AC_1?: Syscall_AC_1
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact Syscall_AC_assms)?)
+    by (unfold_locales; wpsimp wp: Syscall_AC_assms)
```
Comment (lsf37) [inline proof/access-control/ARM/ArchSyscall_AC.thy:182]: Do we need wpsimp for this one? I think we discussed this before, and I'm starting to lean towards keeping interfaces more strictly. The point of the `Syscall_AC_assms` set is that it should collect the interface statements -- so if there is still proof work necessary at this point, then something is not quite right.

File: proof/access-control/RISCV64/ArchFinalise_AC.thy [hunk 3]
```diff
@@ -229,10 +227,11 @@ lemma arch_finalise_cap_respects[wp]:
...
 
-crunch arch_post_cap_deletion
-  for pspace_aligned[Finalise_AC_assms, wp]: "\<lambda>s :: det_ext state. pspace_aligned s"
-  and valid_vspace_objs[Finalise_AC_assms, wp]: "\<lambda>s :: det_ext state. valid_vspace_objs s"
-  and valid_arch_state[Finalise_AC_assms, wp]: "\<lambda>s :: det_ext state. valid_arch_state s"
+declare prepare_thread_delete_st_tcb_at_halted[Finalise_AC_assms]
+declare finalise_cap_valid_list[Finalise_AC_assms]
+declare arch_finalise_cap_pas_refined[Finalise_AC_assms]
+declare prepare_thread_delete_pas_refined[Finalise_AC_assms]
+declare finalise_cap_replaceable[Finalise_AC_assms]
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchFinalise_AC.thy:234]: This is a bit awkward (not that the previous crunch was great either). Do we have statements of these somewhere? Because if yes, the declaration should be there so that we know at the statement/proof that they are interface lemmas. If they come out of different crunches now, we should move the corresponding declarations to those crunches.

File: proof/access-control/RISCV64/ArchSyscall_AC.thy [hunk 4]
```diff
@@ -168,7 +169,7 @@ global_interpretation Syscall_AC_1?: Syscall_AC_1
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact Syscall_AC_assms | wp init_arch_objects_inv))
+    by (unfold_locales; wpsimp wp: Syscall_AC_assms)
```
Comment (lsf37) [inline proof/access-control/RISCV64/ArchSyscall_AC.thy:172]: `wpsimp` for interface check

File: proof/infoflow/FinalCaps.thy [hunk 5]
```diff
@@ -317,7 +317,7 @@ lemma caps_ref_either_an_object_or_irq':
 
 locale FinalCaps_1 =
   fixes aag :: "'a subject_label PAS"
-  (* FIXME IF: precludes X64 *)
+  (* FIXME IF: precludes x64 *)
```
Comment (lsf37) [inline proof/infoflow/FinalCaps.thy:320]: X64 was correct

**Review by lsf37 — APPROVED** [review]
Nice! I do have some nitpicks in the comments, but the substance is great. Less cruft.

File: proof/infoflow/FinalCaps.thy (hunk 5 above)
Comment (ryybrr) [reply proof/infoflow/FinalCaps.thy:320]: Was basing these off Raf's comments, should I flip those too?

Comment (lsf37) [reply proof/infoflow/FinalCaps.thy:320]: not sure what those referred to -- X64 is the L4V_ARCH which this comment was referring to, x64 is the processor architecture in normal text.

File: proof/access-control/RISCV64/ArchFinalise_AC.thy (hunk 3 above)
Comment (corlewis) [reply proof/access-control/RISCV64/ArchFinalise_AC.thy:234]: There's already these sorts of declares in quite a few arch files. My guess is that it is generally from when one architecture proves the lemma earlier, before the relevant locale and named theorem exists, which means that the crunch in this file doesn't do anything.

Alternatively, it could be a sign that the interface is too strong and that some of the lemmas could be removed from the locale, although we'd have to be careful to check all of the architectures to try that. In this case I'm a bit curious about whether the lemmas about generic functions could be removed, although that might not be worth exploring in this PR.

File: proof/access-control/ARM/ArchDomainSepInv.thy [hunk 6]
```diff
@@ -120,23 +129,14 @@ lemma arch_invoke_irq_control_domain_sep_inv[DomainSepInv_assms]:
...
-
 end
 
 
 global_interpretation DomainSepInv_2?: DomainSepInv_2
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; fact DomainSepInv_assms)
+    by (unfold_locales; wpsimp wp: DomainSepInv_assms)
```
Comment (corlewis) [inline proof/access-control/ARM/ArchDomainSepInv.thy:139]: Another `wpsimp` here that should probably stay as `fact`.

File: proof/access-control/CNode_AC.thy [hunk 7]
```diff
@@ -1178,7 +1165,7 @@ lemma cap_swap_pas_refined[wp]:
      by (erule subsetD;
          force simp: is_transferable_weak_derived intro!: sbta_cdt_transferable auth_graph_map_memI)+
          apply (blast intro: state_bits_to_policy.intros auth_graph_map_memI)
-   by fastforce+
+   done
```
Comment (corlewis) [inline proof/access-control/CNode_AC.thy:1168]: Not directly related to this PR but I think that the indentation for the blast is off, probably due to the auto-indenter getting confused by the subgoal.

File: proof/access-control/RISCV64/ArchCNode_AC.thy [hunk 8]
```diff
@@ -56,29 +56,28 @@ lemma sata_update2[CNode_AC_assms]:
...
                 split: if_split_asm)
 
+lemma vs_lookup_table_eqI':
+    "\<lbrakk> asid_table s' (asid_high_bits_of asid) = asid_table s (asid_high_bits_of asid);
+       \<forall>pool_ptr. asid_table s' (asid_high_bits_of asid) = Some pool_ptr
+                  \<longrightarrow> bot_level \<le> max_pt_level
+                  \<longrightarrow> vspace_for_pool pool_ptr asid (asid_pools_of s') =
+                      vspace_for_pool pool_ptr asid (asid_pools_of s);
+       bot_level < max_pt_level \<longrightarrow> pts_of s' = pts_of s \<rbrakk>
+   \<Longrightarrow> vs_lookup_table bot_level asid vref s' = vs_lookup_table bot_level asid vref s"
```
Comment (corlewis) [inline proof/access-control/RISCV64/ArchCNode_AC.thy:66]: Indentation doesn't seem quite right here, I think the assumptions are indented too far.

File: proof/access-control/RISCV64/ArchFinalise_AC.thy [hunk 9]
```diff
@@ -241,7 +240,7 @@ global_interpretation Finalise_AC_1?: Finalise_AC_1
 proof goal_cases
   interpret Arch .
   case 1 show ?case
-    by (unfold_locales; (fact Finalise_AC_assms | wp finalise_cap_replaceable))
+    by (unfold_locales; wpsimp wp: Finalise_AC_assms)
```
Comment (corlewis) [inline proof/access-control/RISCV64/ArchFinalise_AC.thy:243]: `wpsimp`

File: proof/infoflow/ADT_IF.thy [hunk 10]
```diff
@@ -1091,23 +1086,54 @@ lemma handle_preemption_if_invs:
...
+  apply (wpsimp simp: handle_preemption_if_def wp: handle_kernel_interrupt_domain_sep_inv)
+   apply (rule_tac Q'="\<lambda>rv s. domain_sep_inv  irqs st s \<and> (rv \<noteq> None \<longrightarrow> the rv \<notin> non_kernel_IRQs)"
+                in hoare_strengthen_post)
+    apply (wpsimp wp: getActiveIRQ_rv_None)+
+  done
+
+lemma handle_kernel_interrupt_pas_refined:
+  "\<lbrace>pas_refined aag and K (irq \<notin> non_kernel_IRQs)\<rbrace>
+    handle_interrupt irq
+   \<lbrace>\<lambda>_. pas_refined aag\<rbrace>"
```
Comment (corlewis) [inline proof/infoflow/ADT_IF.thy:1112]:
```suggestion
  "\<lbrace>pas_refined aag and K (irq \<notin> non_kernel_IRQs)\<rbrace>
   handle_interrupt irq
   \<lbrace>\<lambda>_. pas_refined aag\<rbrace>"
```

File: proof/infoflow/ADT_IF.thy [hunk 11]
```diff
@@ -1379,11 +1405,17 @@ lemma check_active_irq_if_wp:
...
+context ADT_IF_1 begin
+
 lemma handle_preemption_if_only_timer_irq_inv[wp]:
   "handle_preemption_if tc \<lbrace>only_timer_irq_inv irq st\<rbrace>"
   by (wp only_timer_irq_inv_pres handle_preemption_if_irq_masks handle_preemption_if_domain_sep_inv
       | simp | blast)+
 
+end
+
+
```
Comment (corlewis) [inline proof/infoflow/ADT_IF.thy:1418]: Very minor but you added these extra newlines a couple of times around context blocks like this. Was that intentional? I don't think we usually do it, unless the block is its own section in some way.

**Review by corlewis — APPROVED** [review]
Thanks for doing this, there's some very nice cleanup here!

File: proof/access-control/RISCV64/ArchFinalise_AC.thy (hunk 3 above)
Comment (lsf37) [reply proof/access-control/RISCV64/ArchFinalise_AC.thy:234]: It's alright, let's leave it.

File: proof/access-control/ARM/ArchDomainSepInv.thy (hunk 6 above)
Comment (lsf37) [reply proof/access-control/ARM/ArchDomainSepInv.thy]: Now replaced. I think the new `(solves ‹wp only: ..; simp›)?` are a good compromise between preventing too much magic and still allowing straightforward weakening.

**Review by lsf37 — APPROVED** [review]
If you fix up the white space bit Corey commented on (unless it is an actual section), then I think this is ready to merge.

File: proof/infoflow/ADT_IF.thy (hunk 11 above)
Comment (ryybrr) [reply proof/infoflow/ADT_IF.thy:1418]: The current security proof style is to treat context blocks as sections, so will keep as is for now
